US07595401B2
Step 2: (1S)-2-[4-(2-{6-Amino-8-[(7-chloro-1,3-benzothiazol-2-yl)thio]-9H-purin-9-yl}ethyl)piperidin-1-yl]-1-methyl-2-oxoethyl acetate
The title product was prepared according to the procedure described for example 81 using (1S)-2-{4-[2-(6-amino-8-bromo-9H-purin-9-yl)ethyl]piperidin-1-yl}-1-methyl-2-oxoethyl acetate and 7-chloro-2-mercaptobenzothiazole. LC-MS [M+H]+ 562.1, along with hydrolyzed product, the mixture was used for the next step without any further purification.

reactant | (1S)-2-{4-[2-(6-amino-8-bromo-9H-purin-9-yl)ethyl]piperidin-1-yl}-1-methyl-2-oxoethyl acetate | C(C)(=O)O[C@H](C(=O)N1CCC(CC1)CCN1C2=NC=NC(=C2N=C1Br)N)C | C17H23BrN6O3
reactant | 7-chloro-2-mercaptobenzothiazole | ClC1=CC=CC=2N=C(SC21)S | C7H4ClNS2
product | (1S)-2-[4-(2-{6-Amino-8-[(7-chloro-1,3-benzothiazol-2-yl)thio]-9H-purin-9-yl}ethyl)piperidin-1-yl]-1-methyl-2-oxoethyl acetate | C(C)(=O)O[C@H](C(=O)N1CCC(CC1)CCN1C2=NC=NC(=C2N=C1SC=1SC2=C(N1)C=CC=C2Cl)N)C | C24H26ClN7O3S2
